### PR TITLE
[Merged by Bors] - chore(LinearAlgebra/Matrix/Determinant): golf `det_eq_zero_of_not_linearIndependent_rows`

### PR DESCRIPTION
**Pull request by euprunin**
---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/LinearAlgebra/Matrix/Determinant/Basic.lean [hunk 1]
```diff
@@ -471,11 +471,7 @@ theorem det_updateCol_add_smul_self (A : Matrix n n R) {i j : n} (hij : i ≠ j)
 
 theorem det_eq_zero_of_not_linearIndependent_rows [IsDomain R] {A : Matrix m m R}
     (hA : ¬ LinearIndependent R (fun i ↦ A i)) :
-    det A = 0 := by
-  obtain ⟨c, hc0, i, hci⟩ := Fintype.not_linearIndependent_iff.1 hA
-  have h0 := A.det_updateRow_sum i c
-  rwa [det_eq_zero_of_row_eq_zero (i := i) (fun j ↦ by simp [hc0]), smul_eq_mul, eq_comm,
-    mul_eq_zero_iff_left hci] at h0
+    det A = 0 := AlternatingMap.map_linearDependent detRowAlternating A hA
```
Comment (grunweg) [inline Mathlib/LinearAlgebra/Matrix/Determinant/Basic.lean]: Does this work?
```suggestion
    det A = 0 := detRowAlternating.map_linearDependent A hA
```

**Comment by grunweg** [comment]
Thanks for this PR. I agree this golf is a good idea in principle.

**Comment by grunweg** [comment]
awaiting-author

File: Mathlib/LinearAlgebra/Matrix/Determinant/Basic.lean (hunk 1 above)
Comment (euprunin) [reply Mathlib/LinearAlgebra/Matrix/Determinant/Basic.lean]: Thanks! Fixed.

**Review by grunweg — COMMENTED** [review]
Thanks!
maintainer merge

**Comment by riccardobrasca** [comment]
Thanks!

bors merge
